US07674789B2
21a) 1,1-Dimethylethyl 4-{[8-(2,6-difluorophenyl)-4-(2-methyl-5-{[(phenylmethyl)amino]carbonyl}phenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]amino}-1-piperidinecarboxylate
The compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide (0.08 g, 0.14 mmol) was dissolved in CH2Cl2 (5 mL) and 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate (0.0365 g, 0.175 mmol) and triethylamine (0.0284 g, 0.28 mmol) were added. The mixture was stirred under argon at room temperature overnight with only minor product formation. The reaction mixture was then heated to reflux for 24 h. The reaction still was not complete, so additional 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate (0.146 g, 0.7 mmol) was added and the mixture stirred at reflux for 5 days. The solvents were pumped off in vacuo. The residue was taken up in EtOAc washed with 1M NaOH (2×), brine (1×), dried over anhydrous Na2SO4, filtered and evaporated The residue was flash chromatographed on silica gel (20 g) eluted with 0-50% EtOAc/CH2Cl2 to give the title compound as a white amorphous solid. mp (dec) 167-172° C.; LC-MS m/z 684 (M+H)+, 2.13 min (ret. time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide | 0.14 mmol, 0.08 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2C)S(=O)(=O)C)=O | C28H23F2N5O4S
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | 0.175 mmol, 0.0365 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 0.28 mmol, 0.0284 g | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | 0.7 mmol, 0.146 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl 4-{[8-(2,6-difluorophenyl)-4-(2-methyl-5-{[(phenylmethyl)amino]carbonyl}phenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]amino}-1-piperidinecarboxylate | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C2=C(C=CC(=C2)C(=O)NCC2=CC=CC=C2)C)NC2CCN(CC2)C(=O)OC(C)(C)C)=O | C37H39F2N7O4
